US03957763
2.6 g. of 7-(6,7-epoxy-3,7-dimethyl-2-nonenyloxy)-chromane are dissolved in 26 ml. of ethyl acetate and hydrogenated in the presence of 130 mg. of platinum oxide until the theoretical amount of hydrogen has been made up. The mixture is then filtered off from the catalyst, evaporated and chromatographed on silica gel with hexane/ether (7:3). There is obtained pure 7-(6,7-epoxy-3,7-dimethyl-nonyloxy)-chromane, nD20 = 1.5159.

reactant | 7-(6,7-epoxy-3,7-dimethyl-2-nonenyloxy)-chromane | O1C(CCC(=CCOC2=CC=C3CCCOC3=C2)C)C1(CC)C | C20H28O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(6,7-epoxy-3,7-dimethyl-nonyloxy)-chromane | O1C(CCC(CCOC2=CC=C3CCCOC3=C2)C)C1(CC)C | C20H30O3
